US05073646
0.16 g (3.6 mmol) of 55% strength sodium hydride is added to a solution of 1.3 g (3.6 mmol) of 1-diphenylmethyl-3-methyl-3-trifluoroacetylaminomethylazetidine in 40 ml of dioxane and 10 ml of dimethylformamide, and the mixture is stirred for two hours at 60°-70° C. The solution is cooled to room temperature, 0.73 g (4.6 mmol) of ethyl iodide is added, the mixture is stirred for 4 hours at 70° C. and evaporated to dryness, the residue is dissolved with chloroform, the organic phase is washed with water, dried with anhydrous sodium sulphate and evaporated and 1.1 g (79%) of 1-diphenylmethyl-3-methyl-3-[N-(ethyl)trifluoroacetylaminomethyl]azetidine are obtained. This compound is dissolved in ethanol, and ethyl ether saturated with hydrochloric acid is added. The product is allowed to crystallize and is filtered off, and 1-diphenylmethyl-3-methyl-3-[N-(ethyl)trifluoroacetylaminomethyl]azetidine hydrochloride, melting point 191°-4° C., is obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-diphenylmethyl-3-methyl-3-trifluoroacetylaminomethylazetidine | 3.6 mmol, 1.3 g | C1(=CC=CC=C1)C(N1CC(C1)(CNC(C(F)(F)F)=O)C)C1=CC=CC=C1 | C20H21F3N2O
reactant | ethyl iodide | 4.6 mmol, 0.73 g | C(C)I | C2H5I
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-diphenylmethyl-3-methyl-3-[N-(ethyl)trifluoroacetylaminomethyl]azetidine | 1.1 g, 79% | C1(=CC=CC=C1)C(N1CC(C1)(CN(CC)C(C(F)(F)F)=O)C)C1=CC=CC=C1 | C22H25F3N2O
